US07547701B2
(6-Trifluoromethylpyridin-2-yl)methanol (760 mg, 4.3 mmol) was dissolved in CH2Cl2 and thionyl chloride was added slowly at room temperature. The reaction mixture was stirred at room temperature for 4 h. Solvent was removed under the reduced pressure, the pH was adjusted to 5, and the product was extracted with EtOAc. Purification by flash column (5% EtOAc-Hexane) gave 2-chloromethyl-6-trifluoromethylpyridine (200 mg) as a white solid.

reactant | (6-Trifluoromethylpyridin-2-yl)methanol | 4.3 mmol, 760 mg | FC(C1=CC=CC(=N1)CO)(F)F | C7H6F3NO
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-chloromethyl-6-trifluoromethylpyridine | 200 mg | ClCC1=NC(=CC=C1)C(F)(F)F | C7H5ClF3N
